US05185360
5,10-Dihydro-8-iso-propylindeno[1,2-b]indole
A mixture of 4-isopropylphenylhydrazine hydrochloride (6.3 g, 34 mmol) and 1-indanone (4.5 g, 34 mmol) were heated to reflux in ethanol (40 cm3) containing concentrated hydrochloric acid (2 cm3). Heating was continued for 4 hours, and then the reaction mixture was cooled to room temperature during which time the product crystallised out of solution as colourless crystals. This compound was filtered off, dried in a vacuum oven, and recrystallised from ethanol/water to yield colourless prisms. Yield: 6.59 g, (79%). M.p. 193° C. (from ethanol/water). 1H NMR (DMSO-d6) δ: 1.27 (6H, d,), 2.96 (1H, septet,), 3.65 (2H, s,), 6.9-7.6 (7H, m,), 11.2 (1H, br,).

reactant | 4-isopropylphenylhydrazine hydrochloride | 34 mmol, 6.3 g | Cl.C(C)(C)C1=CC=C(C=C1)NN
reactant | 1-indanone | 34 mmol, 4.5 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | hydrochloric acid | 2 cm3 | Cl | ClH
reactant | ethanol water | C(C)O.O
solvent | ethanol | 40 cm3 | C(C)O | C2H6O
product | 5,10-Dihydro-8-iso-propylindeno[1,2-b]indole | C(C)(C)C1=CC=2C3=C(NC2C=C1)C1=CC=CC=C1C3 | C18H17N
